US08802679B2
Ethyl (diethylphosphoryl)acetate (471 mg) was dissolved in THF (15 ml), and NaH (98 mg) was added thereto, followed by stirring at room temperature for 30 minutes. A solution of tert-butyl 4-(5-formyl-3-methylpyridin-2-yl)piperazine-1-carboxylate (493 mg) in THF (5 ml) was added thereto, followed by stirring at room temperature for 3 hours. To the reaction mixture was added water, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain tert-butyl 4-{5-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]-3-methylpyridin-2-yl}piperazine-1-carboxylate (305 mg).

reactant | Ethyl (diethylphosphoryl)acetate | 471 mg | C(C)P(=O)(CC)CC(=O)OCC | C8H17O3P
reactant | NaH | 98 mg | [H-].[Na+]
reactant | tert-butyl 4-(5-formyl-3-methylpyridin-2-yl)piperazine-1-carboxylate | 493 mg | C(=O)C=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C16H23N3O3
reactant | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-{5-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]-3-methylpyridin-2-yl}piperazine-1-carboxylate | 305 mg | C(C)OC(/C=C/C=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C20H29N3O4
